### PR TITLE
Update convex

### PR DESCRIPTION
**Pull request by Tragicus**
Updates convex.v and preliminaries.v so as to rely on infotheo. Solves issue #17, replaces PR #18. On a side note, muleA now compiles almost instantly. Some of the content of this PR could be moved to infotheo.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Note that `muleA` is already in mathcomp-analysis but your proof looks shorter so it is maybe worth PRing there.

File: theories/preliminaries.v [hunk 1]
```diff
@@ -239,3 +220,80 @@ elim: r=>[| a r IHr].
...
+elim:r s=>[|x r IHr] s.
+   rewrite big_nil.
+   elim:s=>[|y s IHs]; first by rewrite big_nil.
+   by rewrite big_cons big_nil -IHs Monoid.mul1m.
+rewrite big_cons.
+elim:s=>[|y s IHs]; first by rewrite IHr 3!big_nil Monoid.mul1m.
+rewrite !big_cons.
+case:ifP=>_; rewrite IHr -IHs big_cons -IHr.
+   by rewrite Monoid.mulmACA.
+by rewrite Monoid.mulmCA.
```
Comment (affeldt-aist) [inline theories/preliminaries.v:235]:
```suggestion
exact: exchange_big_dep.
```

File: theories/preliminaries.v [hunk 2]
```diff
@@ -239,3 +220,80 @@ elim: r=>[| a r IHr].
...
+case:(Bool.bool_dec _ _).
+   by move=>_; rewrite -surjective_pairing.
+move=>d0.
+by move:(IHn (fun i => g (fdist.fdist_del_idx ord0 i)) (fdist.fdist_del (Bool.eq_true_not_negb _ d0))); rewrite/Convn=>->.
+Qed.
+
+From mathcomp Require Import ereal.
+Local Open Scope ereal_scope.
+
+Ltac case_ereal x :=
```
Comment (affeldt-aist) [inline theories/preliminaries.v:252]: Maybe not used anymore.

File: theories/convex.v [hunk 3]
```diff
@@ -704,244 +371,209 @@ Qed.
...
+
+Lemma lee_pemul (R : realDomainType) (t : R) (x y : \bar R) :
+  (0 < t)%R -> (t%:E * x <= t%:E * y) = (x <= y).
+Proof.
+rewrite -lte_fin=>t0.
+case tne0: (t%:E == 0); first by move:tne0 t0=>/eqP->; rewrite lt_irreflexive.
+case:x=>[x | |]; case:y=>[y | |];
+    rewrite/mule/mule_def/= ?tne0 ?t0// ?leey// ?leNye//.
+move:t0; rewrite 2!lee_fin lte_fin=>t0.
+by rewrite -subr_ge0 -mulrBr pmulr_rge0// subr_ge0.
```
Comment (affeldt-aist) [inline theories/convex.v:542]:
```suggestion
by move=> t0; rewrite lee_pmul2l.
```

File: theories/convex.v [hunk 4]
```diff
@@ -704,244 +371,209 @@ Qed.
...
+      case yzne0: (y%:E + z%:E == 0); move:yzne0.
+         by move=>/eqP->; rewrite lt_irreflexive.
+all: case: x=>[x | |]; rewrite/adde/adde_subdef/mule/mule_subdef/=
+    ?lt0y// ?yne0 ?y0// ?zne0 ?z0//.
+- by rewrite mulrDl.
+- by move=>-> ->. 
+- by move=>-> ->.
+all: case: ifP=>[/eqP/= x0 | _]; last by case: ifP.
+3: by rewrite addr0.
+all: by rewrite (EFin_inj x0) mulr0 addr0.
```
Comment (affeldt-aist) [inline theories/convex.v:531]:
```suggestion
by move=> y0 z0; rewrite ge0_muleDl.
```

**Comment by Tragicus** [comment]
Many thanks for the review. I will open a PR for muleA.
